US06794389B2
trans-1,4-Bis(hydroxymethyl)cyclohexane
Under argon stream, a suspension of 2.96 g of lithium aluminum hydride in 100 mL of anhydrous tetrahydrofuran was treated dropwise with a solution of 3.9 g of trans-1,4-cyclohexanedicarboxylic acid dimethyl ester in anhydrous tetrahydrofuran at −20° C., and stirred for 2.5 hours. The reaction solution was combined with ice water to complete the reaction, and the insolubles were filtered off through Celite. After drying over magnesium sulfate, the residue was concentrated to obtain 2.80 g of the desirable compound.

reactant | lithium aluminum hydride | 2.96 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | trans-1,4-cyclohexanedicarboxylic acid dimethyl ester | 3.9 g | COC(=O)[C@@H]1CC[C@H](CC1)C(=O)OC | C10H16O4
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | trans-1,4-Bis(hydroxymethyl)cyclohexane | 2.80 g | OC[C@@H]1CC[C@H](CC1)CO | C8H16O2
